US05744480
Under a nitrogen atmosphere, in a round-bottom flask were placed 880 mg (22mmol) of 60% sodium hydride (NaH) and 12 ml of N,N-dimethylformamide. To the system were added 2.9 ml (4 g, 40 mmol) of 2,2,2-trifluoroethanol via syringe over a period of 15 minutes and the mixture was stirred at room temperature for 20 minutes. To the system were added 1.72 g (10 mmol) of 2,5-dichlorobenzonitrile, and the mixture was heated at 90° C. for three days. The mixture was cooled to room temperature, poured into 50 ml of 2M aqueous HCl and extracted with three portions of ether. The combinedorganic fractions were dried (Na2SO4) and concentrated to afford2.5 g of a solid. The crude material was purified by flash column chromatography using 1:49 ethyl acetate/hexanes as the eluant to obtain 1.4 g of 5-chloro-2-(2,2,2-trifluoroethoxy)benzonitrile as a white solid.

reactant | sodium hydride | 22mmol, 880 mg | [H-].[Na+]
reactant | 2,2,2-trifluoroethanol | 40 mmol, 2.9 ml, 4 g | FC(CO)(F)F | C2H3F3O
reactant | 2,5-dichlorobenzonitrile | 10 mmol, 1.72 g | ClC1=C(C#N)C=C(C=C1)Cl | C7H3Cl2N
reactant | HCl | 2M, 50 ml | Cl | ClH
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 5-chloro-2-(2,2,2-trifluoroethoxy)benzonitrile | 1.4 g | ClC=1C=CC(=C(C#N)C1)OCC(F)(F)F | C9H5ClF3NO
